US04265890
To a stirred solution of 114 ml. of water and 15 ml. of concentrated sulfuric acid at 60°-70° C. is added 23.2 g. (0.082 mole) of 9-amino-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine. The resulting suspension is stirred vigorously and cooled to 0°-5° C. To this suspension is added 6.3 g. (0.091 mole) of sodium nitrite in 10 ml. of water at a rate such that the temperature does not exceed 5° C. The resulting diazonium solution is added dropwise to a boiling solution of 200 g. of cuprous sulfate and 300 ml. of water. After being refluxed for 15 minutes the solution is cooled, a trace of ascorbic acid is added and the pH is adjusted to 7.0 with ammonium hydroxide. The mixture is extracted with ethyl acetate. After being dried the extract is concentrated to afford 9-hydroxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine. Purification is accomplished by chromatography or by recrystallization of an appropriate acid addition salt.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 9-amino-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.082 mole | NC1=CC=C(C2=C1CCN(CC2)C)SC2=CC=CC=C2 | C17H20N2S
reactant | sodium nitrite | 0.091 mole | N(=O)[O-].[Na+]
reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 9-hydroxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | OC1=CC=C(C2=C1CCN(CC2)C)SC2=CC=CC=C2 | C17H19NOS
